US04695635
In an ice bath, 280 ml of trifluoroacetic acid is cooled and then successively combined, under inert gas, with 12.5 g of 3-(2-bromo-9,10-didehydro-6-methyl-8α-ergolinyl)-1,1-diethylurea (30 millimoles) and 7 g of sodium borohydride in tablet form. The mixture is stirred under ice cooling for 4 hours and, during this time, 2×3 g of sodium borohydride is added. Then the reaction mixture is poured on about 200 ml. of ice and, under ice cooling, gently neutralized with concentrated aqueous ammonia solution (32%). The mixture is extracted with methylene chloride, and the organic phase is then dried with magnesium sulfate and evaporated. The residue is crystallized from ethyl acetate and diisopropyl ether, thus obtaining 6.35 g of 3-(9,10-didehydro-2,3β-dihydro-6-methyl-8α-ergolinyl)-1,1-diethylurea (62% of theoretical). From the mother liquor, another 1.0 g of compound is additionally crystallized. According to NMR analysis, the compound is solely a 3βH-compound.

reactant | 3-(2-bromo-9,10-didehydro-6-methyl-8α-ergolinyl)-1,1-diethylurea | 30 millimoles, 12.5 g | BrC1=C2C[C@H]3N(C[C@H](C=C3C=3C=CC=C(N1)C32)NC(N(CC)CC)=O)C | C20H25BrN4O
reactant | sodium borohydride | 7 g | [BH4-].[Na+]
reactant | sodium borohydride | 3 g | [BH4-].[Na+]
reactant | ammonia | N | H3N
solvent | trifluoroacetic acid | 280 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 3-(9,10-didehydro-2,3β-dihydro-6-methyl-8α-ergolinyl)-1,1-diethylurea | 6.35 g, 62% | CN1C[C@H](C=C2C=3C=CC=C4NC[C@@H](C[C@@H]12)C34)NC(N(CC)CC)=O | C20H28N4O
